US09278944B2
To a solution of tert-butyl (2R)-2-[(cyclopropyl{(1R)-1-[1-(3-methoxypropyl)-3-methyl-1H-indazol-6-yl]ethyl}amino)carbonyl]morpholine-4-carboxylate (44.4 mg) in chloroform (2.0 mL) was added 4-normal hydrogen chloride-dioxane solution (0.75 mL) under ice-cooling, and the mixture was stirred at room temperature for 20 hours. The reaction solution was concentrated under reduced pressure, and the resulting residue was dissolved in water (1 mL), and then washed with diethyl ether. The aqueous layer was freeze-dried to give (2R)-N-cyclopropyl-N-{(1R)-1-[1-(3-methoxypropyl)-3-methyl-1H-indazol-6-yl]ethyl}morpholine-2-carboxamide hydrochloride [Ex(3-1)] (25 mg) as a colorless powder.

reactant | tert-butyl (2R)-2-[(cyclopropyl{(1R)-1-[1-(3-methoxypropyl)-3-methyl-1H-indazol-6-yl]ethyl}amino)carbonyl]morpholine-4-carboxylate | 44.4 mg | C1(CC1)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)[C@H](C)C1=CC=C2C(=NN(C2=C1)CCCOC)C | C27H40N4O5
reactant | hydrogen chloride dioxane | 0.75 mL | Cl.O1CCOCC1
solvent | chloroform | 2.0 mL | C(Cl)(Cl)Cl | CHCl3
product | (2R)-N-cyclopropyl-N-{(1R)-1-[1-(3-methoxypropyl)-3-methyl-1H-indazol-6-yl]ethyl}morpholine-2-carboxamide hydrochloride | 25 mg | Cl.C1(CC1)N(C(=O)[C@H]1CNCCO1)[C@H](C)C1=CC=C2C(=NN(C2=C1)CCCOC)C | InChI=1S/C22H32N4O3.ClH/c1-15-19-8-5-17(13-20(19)25(24-15)10-4-11-28-3)16(2)26(18-6-7-18)22(27)21-14-23-9-12-29-21;/h5,8,13,16,18,21,23H,4,6-7,9-12,14H2,1-3H3;1H/t16-,21-;/m1./s1
